US07056354B2
A solution of 2-hydrazinopyridine (38.9 g, 453 mmol) was slowly added to a solution of 3-ethoxyacrylonitrile (31.5 g, 324 mmol) in pentanol (155 ml). The reaction mixture was brought to reflux for 5 h. 2-Hydrazinopyridine (10.6 g, 97 mmol) was again added and the reaction was allowed to continue to reflux for 4 h. The progress of the reaction is observed by TLC and, when the reaction is complete, the mixture is concentrated under reduced pressure until the excess hydrazinopyridine has precipitated. The filtrate was purified by column chromatography to give 2-pyridin-2-yl-2H-pyrazol-3-ylamine in the form of a white solid (2.75 g, 5.3%).

reactant | 2-hydrazinopyridine | 453 mmol, 38.9 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | 3-ethoxyacrylonitrile | 324 mmol, 31.5 g | C(C)OC=CC#N | C5H7NO
reactant | 2-Hydrazinopyridine | 97 mmol, 10.6 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | pentanol | 155 ml | C(CCCC)O | C5H12O
product | 2-pyridin-2-yl-2H-pyrazol-3-ylamine | N1=C(C=CC=C1)N1N=CC=C1N | C8H8N4
